US03989708
Upon boiling a solution of 24.3 g of 2-chlorobenzylideneacetophenone and 13.0 g of amidinoacetic acid ethyl ester in 250 ml of ethanol for 3 hours, 2-amino-6-phenyl-4-(2-chlorophenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester of melting point 196°C (alcohol) is obtained. Yield: 68 percent of theory.

reactant | 2-chlorobenzylideneacetophenone | 24.3 g | ClC1=C(C=CC(=O)C2=CC=CC=C2)C=CC=C1 | C15H11ClO
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-amino-6-phenyl-4-(2-chlorophenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester | Yield: 68 percent | C(C)OC(=O)C1=C(NC(=CC1C1=C(C=CC=C1)Cl)C1=CC=CC=C1)N | C20H19ClN2O2
